US07829560B2
N-[4-({2-[(Cyclopropylmethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide (Compound B336).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and cyclopropylmethylamine according to conditions described in general procedure C. Mp: 116-117° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.1-0.3 (m, 4 H), 0.97 (bs, 1H), 2.75-3.02 (m, 2 H) 3.26 (s, 4 H), 3.76 (s, 4 H), 6.25 (bd, 1 H), 7.03 (d, J=12.4 Hz, 1 H), 7.24-7.27 (m, 2 H), 7.38-7.41 (m, 1 H), 7.48 (s, 1 H), 7.56-7.59 (m, 3 H), 7.80-7.83 (m, 1 H), 7.98 (d, J=7.3 Hz, 1 H), 8.20 (s, 1 H), 10.45 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | cyclopropylmethylamine | C1(CC1)CN | C4H9N
product | N-[4-({2-[(Cyclopropylmethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide | C1(CC1)CNC1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C29H28FN5O3
